2158-01-06 07:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2158-1-5**] 09:20 AM
   - HCP signed release of information form to obtain [**Hospital1 403**] records
   - BP remained in the 90s
   Allergies:
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2158-1-5**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2158-1-6**] 04:00 AM
   Infusions:
   Heparin Sodium - 825 units/hour
   Other ICU medications:
   Heparin Sodium - [**2158-1-5**] 11:30 AM
   Morphine Sulfate - [**2158-1-5**] 06:00 PM
   Famotidine (Pepcid) - [**2158-1-6**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-1-6**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 35.9
C (96.7
   HR: 113 (93 - 129) bpm
   BP: 122/69(82) {86/45(57) - 143/96(109)} mmHg
   RR: 21 (21 - 39) insp/min
   SpO2: 99%
   Heart rhythm: A Flut (Atrial Flutter)
             Total In:
                                                                  2,696 mL
                                                                    277 mL
   PO:
             TF:
   IVF:
                                                                  1,636 mL
                                                                    217 mL
   Blood products:
   Total out:
                                                                  1,610 mL
                                                                    295 mL
   Urine:
                                                                  1,610 mL
                                                                    295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,086 mL
                                                                    -18 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 304 (114 - 565) mL
   PS : 8 cmH2O
   RR (Spontaneous): 24
   PEEP: 10 cmH2O
   FiO2: 60%
   PIP: 19 cmH2O
   SpO2: 99%
   ABG: ///27/
   Ve: 5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   530 K/uL
   12.5 g/dL
   150 mg/dL
   0.6 mg/dL
   27 mEq/L
   4.5 mEq/L
   26 mg/dL
   99 mEq/L
   133 mEq/L
   37.8 %
   42.3 K/uL
        [image002.jpg]
                             [**2158-1-5**]  11:21 AM
                             [**2158-1-5**]  05:36 PM
                             [**2158-1-6**]  03:36 AM
   WBC
   40.0
   42.3
   Hct
   42.3
   37.8
   Plt
   575
   530
   Cr
   0.8
   0.7
   0.6
   Glucose
   [**Telephone/Fax (3) 5877**]
   Other labs: PT / PTT / INR:23.3/148.2/2.3, Albumin:3.9 g/dL, Ca++:10.2
   mg/dL, Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   A/P: 76 yo with PMH of stroke, diabetes who presents in respiratory
   distress, requiring BIPAP, and LLL pna by CXR.
   .
   # Respiratory distress: presumably from pna, though also has ? history
   of CHF.  CXR does not show significant pulm edema.  Continues to
   require bipap.  PE also in differential given tachycardia and hypoxia
   and subtherapeutic INR.  Leukocytosis, bandemia, and lactate concerning
   for SIRS progressing to sepsis.  Currently not hypotensive but dropped
   from systolic 150s to 104 currently.  Pt is DNR/DNI with no pressors or
   escalation of care per HCP, antibiotics and fluid okay.
   - antibiotics - vanc/zosyn/levo to double cover pseudomonas given
   nursing home patient.
   - heparin ggt for possible PE and for anticoagulation given
   subtherapeutic INR
   - would not likely tolerate CTA and CTA would not likely change
   management, so no CTA for PE for now.
   - aggressive fluid replacement to try to keep MAP > 65, but no pressors
   - no central lines per HCP
   - Continue BIPAP as needed - no intubation
   - prn morphine
   - cont scopolamine and prn levsin
   .
   # afib: on coumadin but subtherapeutic by recent lab draw and in our
   ED.  Recent stroke at [**Hospital1 403**] this month, embolic from afib.  On coumadin
   with subtherapeutic INR at nursing home.  Clinically, this is less
   likely stroke than pna and SIRS, though head imaging could be
   considered if new neurological symptoms arise.  Rate improved to 90s
   with fluid.
   - heparin ggt for anticoagulation
   - hold antihypertensive rate control medications
   - control rate with fluid
   .
   # History of CVA at [**Hospital1 403**] related to afib: patient is aphasic at
   baseline.  She makes eye contact and is alert.  See above in "afib".
   .
   # Hypercalcemia: unclear baseline and unclear cause at this point.
   - IVF
   .
   # Hyperkalemia: mild with no peaked Ts.
   - follow
   .
   # thrombocytosis: likely reactive
   - follow
   .
   # DM2: sliding scale insulin, finger sticks
   .
   # HTN: holding antihypertensives given pna, leukocytosis, bandemia.
   .
   # CAD: no on aspirin or ACE-I. Holding metoprolol as above. ? history
   of CHF.  Has BNP of 1600 but not significantly overloaded by CXR.  Will
   need fluid for SIRS/sepsis.  Monitor exam, CXR.
   .
   # Hypothyroidism: cont levothyroxine
   .
   # Psychosis: cont seroquel
   .
   # FEN: holding feeding for now.  Replete lytes.  Recheck K.
   .
   # PPx: heparin ggt, H2 blocker
   .
   # Code: DNR/DNI, no escalation of care.  No central lines.  Antibiotics
   and fluid ok.
   .
   # HCP [**Name (NI) 4822**] [**Name (NI) 5865**] (family friend) [**Telephone/Fax (1) 5867**].
   .
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2158-1-5**] 11:06 AM
   22 Gauge - [**2158-1-5**] 01:01 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2158-01-06 11:11:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2158-1-5**] 09:20 AM
   Health care proxy signed authorization for medical records
   BP stable in 90s. Afebrile
   Remained on BiPAP overnight
                   Patient unable to provide history: intubated
   Allergies:
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2158-1-6**] 04:00 AM
   Vancomycin - [**2158-1-6**] 07:40 AM
   Levofloxacin - [**2158-1-6**] 08:30 AM
   Infusions:
   Heparin Sodium - 825 units/hour
   Other ICU medications:
   Heparin Sodium - [**2158-1-5**] 11:30 AM
   Morphine Sulfate - [**2158-1-5**] 06:00 PM
   Famotidine (Pepcid) - [**2158-1-6**] 05:00 AM
   Other medications:
   Reviewed
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Integumentary (skin): No(t) Rash, coccyx 8 cm puple area, only small
   area of skin breakdown
   Flowsheet Data as of  [**2158-1-6**] 10:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.4
C (97.5
   HR: 109 (93 - 129) bpm
   BP: 135/69(82) {86/45(57) - 143/90(93)} mmHg
   RR: 20 (20 - 30) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  2,696 mL
                                                                    604 mL
   PO:
             TF:
   IVF:
                                                                  1,636 mL
                                                                    544 mL
   Blood products:
   Total out:
                                                                  1,610 mL
                                                                    550 mL
   Urine:
                                                                  1,610 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,086 mL
                                                                     54 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 728 (295 - 728) mL
   PS : 8 cmH2O
   RR (Spontaneous): 19
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 4 L/min
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric)
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, Rt sided hemiparesis
   Labs / Radiology
   12.5 g/dL
   530 K/uL
   150 mg/dL
   0.6 mg/dL
   27 mEq/L
   4.5 mEq/L
   26 mg/dL
   99 mEq/L
   133 mEq/L
   37.8 %
   42.3 K/uL
        [image002.jpg]
                             [**2158-1-5**]  11:21 AM
                             [**2158-1-5**]  05:36 PM
                             [**2158-1-6**]  03:36 AM
   WBC
   40.0
   42.3
   Hct
   42.3
   37.8
   Plt
   575
   530
   Cr
   0.8
   0.7
   0.6
   Glucose
   [**Telephone/Fax (3) 5877**]
   Other labs: PT / PTT / INR:23.3/148.2/2.3, Albumin:3.9 g/dL, Ca++:10.2
   mg/dL, Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 PNEUMONIA, ASPIRATION
 ATRIAL FIBRILLATION (AFIB)
 LEUKOCYTOSIS
   76 yo with PMH of stroke, diabetes, aphasia who presents in respiratory
   distress, fever, leukocytosis, CXR with LLL infiltrate requiring BIPAP.
   DNR/DNI with limitations of treatment (no pressors, no CL, ok to give
   fluids, no escalation of care per HCP)
   # Acute respiratory failure: likely LLL pneumonia, ? aspiration, watch
   for progressing to ARDS. PE in the differential given low INR despite
   on coumadin, but is now being therapeutically anticoaulated with IV
   heparin. Continues to require bipap. Is DNR/DNI but looks very
   uncomfortable on BiPAP. Ok to give prn morphine. [**Month (only) 51**] need to progress
   to make CMO if she is very uncomfortable, if HCP agrees. Secretion
   control. Wean Bipap as tolerated. Abx: Vanc, levo, zosyn. Follow up on
   cultures.
   # Sepsis: leukocytosis 40, low grade fever, thrombocytosis despite Abx.
   Will empirically start Flagyl per G tube. Send cdiff if stool
   # afib with RVR: therapeutic heparin gtt, reintroduce nodal agents as
   tolerated by HR and BP.
   # Hypercalcemia: unclear baseline and unclear cause at this point. Rx
   with IVF and follow.
   #  Hyperkalemia: mild with no peaked Ts, improved now
   # CAD: not on aspirin or ACE-I. Watch for CHF
   # Hypothyroidism: cont levothyroxine.
   Rest per resident note. Keep HCP updated if any changes.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2158-1-6**] 10:02 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 36 minutes
   Patient is critically ill

2158-01-07 08:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2158-1-6**] 11:50 AM
   - INR therapeutic, heparin d/c'd, coumadin started
   - started on PO flagyl given high WBC and no source isolated
   - continued on vanc/zosyn/levo for broad coverage and
   double-pseudomonas coverage.
   - Tube feeds started.
   History obtained from Medical records
   Patient unable to provide history: aphasic at baseline
   Allergies:
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2158-1-6**] 08:30 AM
   Vancomycin - [**2158-1-6**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2158-1-7**] 04:17 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2158-1-7**] 04:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2158-1-7**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.8
C (98.2
   HR: 100 (91 - 109) bpm
   BP: 91/47(58) {91/47(58) - 136/79(88)} mmHg
   RR: 29 (20 - 31) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
             Total In:
                                                                  1,385 mL
                                                                    746 mL
   PO:
             TF:
                                                                     90 mL
                                                                    286 mL
   IVF:
                                                                  1,025 mL
                                                                    230 mL
   Blood products:
   Total out:
                                                                  1,230 mL
                                                                    440 mL
   Urine:
                                                                  1,230 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    155 mL
                                                                    306 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent, Bipap mask
   Ventilator mode: Standby
   Vt (Spontaneous): 779 (779 - 779) mL
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 0 cmH2O
   SpO2: 100%
   ABG: ////
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   530 K/uL
   12.5 g/dL
   150 mg/dL
   0.6 mg/dL
   27 mEq/L
   4.5 mEq/L
   26 mg/dL
   99 mEq/L
   133 mEq/L
   37.8 %
   42.3 K/uL
        [image002.jpg]
                             [**2158-1-5**]  11:21 AM
                             [**2158-1-5**]  05:36 PM
                             [**2158-1-6**]  03:36 AM
   WBC
   40.0
   42.3
   Hct
   42.3
   37.8
   Plt
   575
   530
   Cr
   0.8
   0.7
   0.6
   Glucose
   [**Telephone/Fax (3) 5877**]
   Other labs: PT / PTT / INR:24.7/81.1/2.4, Albumin:3.9 g/dL, Ca++:10.2
   mg/dL, Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   A/P: 76 yo with PMH of stroke, diabetes who presents in respiratory
   distress, requiring BIPAP, and LLL pna by CXR.
   .
   # Respiratory distress: presumably from pna, though also has ? history
   of CHF.  CXR does not show significant pulm edema.  Continues to
   require bipap.  PE also in differential given tachycardia and hypoxia
   and subtherapeutic INR.  Leukocytosis, bandemia, and lactate initially
   concerning for SIRS progressing to sepsis.  These parameters have
   subsequently improved.  Cultures all NTD so far with the exception of
   negative flu and urine legionella.
   - antibiotics
 cont  vanc/zosyn/levo
   - would not likely tolerate CTA and CTA would not likely change
   management, so no CTA for PE.
   - cont goal MAP 65
   - no central lines per HCP
   - Continue BIPAP as needed - no intubation
   - prn morphine
   - cont scopolamine and prn levsin
   .
   # afib: on coumadin.  Recent stroke at [**Hospital1 403**] this month, embolic from
   afib.  On coumadin with subtherapeutic INR at nursing home.
   Clinically, this is less likely stroke than pna and SIRS, though head
   imaging could be considered if new neurological symptoms arise.  Rate
   improved to 90s with fluid.  INR now 2.4.
   -cont coumadin, reduced from home dose given flagyl
   - hold antihypertensive rate control medications
   - can start adding back in rate control agents prn
   .
   # History of CVA at [**Hospital1 403**] related to afib: patient is aphasic at
   baseline.  She makes eye contact and is alert.
   .
   # thrombocytosis: likely reactive
   - follow
   .
   # DM2: sliding scale insulin, finger sticks
   .
   # HTN: add back in antihypertensives prn
   .
   # CAD: no on aspirin or ACE-I. metoprolol likely first [**Doctor Last Name **] to add
   back in. ? history of CHF.  Has BNP of 1600 but not significantly
   overloaded by CXR.  Monitor exam, CXR.
   .
   # Hypothyroidism: cont levothyroxine
   .
   # Psychosis: cont seroquel
   .
   # FEN: cont TF. Replete lytes prn
   .
   # PPx: therapeutic INR on coumadin, H2 blocker
   .
   # Code: DNR/DNI, no escalation of care.  No central lines.  Antibiotics
   and fluid ok.
   .
   # HCP [**Name (NI) 4822**] [**Name (NI) 5865**] (family friend) [**Telephone/Fax (1) 5867**].
   .
   # Dispo: ICU
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2158-1-7**] 06:17 AM 45 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2158-1-6**] 10:02 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2158-01-07 10:17:00 Physician Attending Progress Note
Chief Complaint: pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   h/o severe CVA, admitted with pna.
   24 Hour Events:
   heparin d/c'd for therapeutic INR, remains on coumadin.
   WBC increasing, po Flagyl added to abx.
   TFs started.
   Allergies:
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2158-1-6**] 08:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2158-1-7**] 04:17 AM
   Vancomycin - [**2158-1-7**] 08:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2158-1-7**] 04:17 AM
   Other medications:
   Scopolamine patch, midodrine, Seroquel, ISS, Levothyroxine,Coumadin,
   Flagyl
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: Tube feeds
   Respiratory: Dyspnea, Tachypnea
   Endocrine: History of thyroid disease
   Neurologic: CVA
   Flowsheet Data as of  [**2158-1-7**] 10:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.3
C (97.4
   HR: 100 (91 - 109) bpm
   BP: 91/47(58) {91/47(58) - 136/79(85)} mmHg
   RR: 29 (20 - 31) insp/min
   SpO2: 100% on shovel mask
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
             Total In:
                                                                  1,385 mL
                                                                  1,087 mL
   PO:
             TF:
                                                                     90 mL
                                                                    377 mL
   IVF:
                                                                  1,025 mL
                                                                    450 mL
   Blood products:
   Total out:
                                                                  1,230 mL
                                                                    520 mL
   Urine:
                                                                  1,230 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    155 mL
                                                                    567 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   Ventilator mode: Standby
   Vt (Spontaneous): 779 (779 - 779) mL
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 0 cmH2O
   SpO2: 100%
   ABG: ////
   Physical Examination
   General Appearance: No acute distress, makes eye contact
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   L base)
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Non -purposeful,
   Tone: Not assessed, make eye contact but aphasic
   [**Name (NI) 582**] / Radiology
   12.5 g/dL
   530 K/uL
   150 mg/dL
   0.6 mg/dL
   27 mEq/L
   4.5 mEq/L
   26 mg/dL
   99 mEq/L
   133 mEq/L
   37.8 %
   42.3 K/uL
        [image002.jpg]
                             [**2158-1-5**]  11:21 AM
                             [**2158-1-5**]  05:36 PM
                             [**2158-1-6**]  03:36 AM
   WBC
   40.0
   42.3
   Hct
   42.3
   37.8
   Plt
   575
   530
   Cr
   0.8
   0.7
   0.6
   Glucose
   [**Telephone/Fax (3) 5877**]
   Other [**Telephone/Fax (3) **]: PT / PTT / INR:24.7/81.1/2.4, Albumin:3.9 g/dL, Ca++:10.2
   mg/dL, Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   76 [**Last Name (un) 1605**] with h/o CVA, DM admitted with LLL pna.
   1)ID- on Vanc/Zosyn/Levo for pna. Added flagyl for possible CDiff given
   rising WBC. No revealing culture data thus far. send stool when BM.
   2)Pulm- ?on 3L 02 at baseline. Clinical improvement in that she has not
   required Bipap in past day and minimal O2 requirement now.
   3)CV- add back low dose metoprolol (h/o CAD, HTN and afib).
   4)Endo- cont Levothyroxine for hypothyroidism.
   5)FEN- started TFs, tolerating well.
   6)ICU- coumadin, H2 blocker, SSI. DNR/DNI- no lines/pressors or
   escalation of care. HCP is family friend.
   [**Name (NI) **] out to floor today.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2158-1-7**] 06:17 AM 45 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2158-1-6**] 10:02 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent: